US07807693B2
(b) 2-methyl-6-nitro-1,2,3,4-tetrahydro-8-methoxycarbonyl-isoquinoline and regioisomers
A mixture of 1.04 g (5.0 mmol) 2-methyl-1,2,3,4-tetrahydro-8-methoxycarbonyl-isoquinoline and sulphuric acid is slowly combined at −7° C. with 0.57 g of potassium nitrate, then stirred for 15 min at −7° C. and for 1 h at ambient temperature. Then it is slowly poured onto ice water and made alkaline with NaOH. The crystals precipitated are filtered off and dried. A mixture of regioisomers is obtained.

reactant | 2-methyl-1,2,3,4-tetrahydro-8-methoxycarbonyl-isoquinoline | 5.0 mmol, 1.04 g | CN1CC2=C(C=CC=C2CC1)C(=O)OC | C12H15NO2
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | potassium nitrate | 0.57 g | [N+](=O)([O-])[O-].[K+]
reactant | NaOH | [OH-].[Na+]
product | 2-methyl-6-nitro-1,2,3,4-tetrahydro-8-methoxycarbonyl-isoquinoline | CN1CC2=C(C=C(C=C2CC1)[N+](=O)[O-])C(=O)OC | C12H14N2O4
